US08293768B2
Synthesis of N-(cyclopropylmethyl)-4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide
Following the procedure as describe in Example 8, making variations as required to replace benzylamine with 2-cyclopropylmethylamine to react with 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid, the title compound was obtained as a white powder in 15% yield: mp 184-186° C.; 1H NMR (300 MHz, CDCl3) δ 7.32 (d, J=8.4 Hz, 2H), 7.18 (d, J=8.4 Hz, 2H), 5.70 (s, 1H), 4.48 (s, 2H), 4.08 (t, J=8.4 Hz, 2H), 3.46 (t, J=8.4 Hz, 2H), 3.24-3.20 (m, 2H), 2.58 (s, 3H), 1.03-0.92 (m, 1H), 0.55-0.44 (m, 2H), 0.29-0.27 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 162.3, 156.9, 155.5, 152.7, 148.9, 134.4, 129.7, 121.4, 120.4, 117.6, 47.3, 44.8, 42.0, 41.8, 17.1, 10.6, 3.5; MS (ES+) m/z 455.3 (M+1).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-cyclopropylmethylamine | C1C(C1)CN | C4H9N
reactant | 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=CC=C(C=C1)OC(F)(F)F)=O | C16H14F3N3O4S
product | N-(cyclopropylmethyl)-4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide | 15% yield | C1(CC1)CNC(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)OC(F)(F)F)=O)C | C20H21F3N4O3S
